US04855507
Following the procedure of Example 1, mono-n-propylphosphine, in tetrahydrofuran, as solvent, is reacted with a 40% aqueous glyoxal solution, to give 1,4-di-n-propyl-2,3,5,6-tetrahydroxy-1,4-diphosphorinane, a solid melting at 131°-133° C.

reactant | mono-n-propylphosphine | C(CC)P | C3H9P
reactant | glyoxal | C(=O)C=O | C2H2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,4-di-n-propyl-2,3,5,6-tetrahydroxy-1,4-diphosphorinane | C(CC)P1C(C(P(C(C1O)O)CCC)O)O | C10H22O4P2
